US08471005B2
Sodium Tungstate Dihydrate (23.0 mg, 0.0698 mmol) and 50% Hydrogen Peroxide (50:50, Hydrogen peroxide:Water, 0.150 mL, 2.64 mmol) were added to 7-(3-Methoxy-pyridin-2-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.190 g, 0.698 mmol) in Methanol (10.0 mL) and Acetic acid (0.400 mL, 7.04 mmol). The mixture was stirred at 50° C. Formation of the sulfoxide was evident, followed by formation of the sulfone. After o.n., a 1:1 mixture of sulfoxide:sulfone was present. Additional 50% Hydrogen Peroxide (50:50, Hydrogen peroxide:Water, 0.150 mL, 2.64 mmol) was added. Further heating gave a ˜2:1 mixture. Aqueous workup (10% Na2S2O3, NaHCO3, water) and extract with DCM. The crude sulfone:sulfoxide mixture was hydrolyzed by dissolving in Tetrahydrofuran (6.0 mL) and adding 5.0 M of Sodium hydroxide in Water (0.500 mL, 2.50 mmol), then heating at 50° C. for 6 h. Work up by acidifying with Acetic acid to pH 5-6. Partition between DCM and water, extract with DCM using MeOH to solubilize the ppt that forms during extraction. Dry and conc. in vacuo to afford 7-(3-Methoxy-pyridin-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (145 mg, 85%).

reactant | Hydrogen Peroxide | 2.64 mmol, 0.150 mL | OO | H2O2
reactant | 7-(3-Methoxy-pyridin-2-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.698 mmol, 0.190 g | COC=1C(=NC=CC1)C1=CC=C2C=NC(=NN21)SC | C13H12N4OS
reactant | Hydrogen Peroxide | 2.64 mmol, 0.150 mL | OO | H2O2
reactant | Sodium hydroxide | 5.0 M | [OH-].[Na+]
reactant | Water | 2.50 mmol, 0.500 mL | O | H2O
solvent | Methanol | 10.0 mL | CO | CH4O
catalyst | Sodium Tungstate Dihydrate | 0.0698 mmol, 23.0 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | Acetic acid | 7.04 mmol, 0.400 mL | C(C)(=O)O | C2H4O2
product | 7-(3-Methoxy-pyridin-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 145 mg, 85% | COC=1C(=NC=CC1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
